### PR TITLE
64-bit ALU Verification, Part I

### PR DESCRIPTION
**Pull request by PetarMax**
This PR introduces the following specifications and proofs:

- `IsEqualWord`, `IsZero`, `IsZeroWord`, `LtOperationSigned`, `LtOperationUnsigned`, `U16Compare`, `Add`, `Addw`, `Sub`, `Subw`, `U16MSB`, and `U16toU8Unsafe` operations;
- `ALUType`, `CpuState`, `IType`, and `RType` readers; and
- all opcodes except `Div`- and `Rem`-related ones.

It also provides the proof of the axiom previously introduced in `LtOperationSigned`. 

I would suggest that the proofs for other operations, readers, and opcodes that have appeared in the meantime be revisited in the style of the ones I've proven. In particular, the shift-right operation has the most streamlined structure that simplifies chip proofs greatly.

### CODE REVIEW

File: SP1Chips/SubChip.lean [hunk 1]
```diff
@@ -1,4 +1,112 @@
...
+
+namespace Sub
+
+variable
+  (Main : Vector (Fin BB) 33)
+  (s : SailState)
+  (cstrs : (constraints Main).allHold)
+  (h_is_real : Main[32] = 1)
+
+def spec_add (rs2 rs1 rd : regidx) : SailM Unit := do
```
Comment (dtumad) [inline SP1Chips/SubChip.lean]: `spec_sub`

File: SP1Chips/SubChip.lean [hunk 2]
```diff
@@ -1,4 +1,112 @@
...
+    exact reader_cstrs.1.1.2
+
+def sp1_add : SailM Unit := do
+  let op_a := sp1_op_a Main cstrs h_is_real
+  Sail.writeReg Register.nextPC (Word.toBitVec64 #v[Main[3], Main[4], Main[5], 0] + 4)
+  Sail.write_reg op_a (Word.toBitVec64 #v[Main[28], Main[29], Main[30], Main[31]])
+
+open Sail
+
+theorem correct_add
```
Comment (dtumad) [inline SP1Chips/SubChip.lean]: `correct_sub`

Comment (PetarMax) [reply SP1Chips/SubChip.lean]: Fixed.

File: SP1Chips/SubChip.lean (hunk 1 above)
Comment (PetarMax) [reply SP1Chips/SubChip.lean]: Fixed.

File: SP1Chips/ShiftRightChip.lean [hunk 3]
```diff
@@ -3,3 +3,472 @@ import SP1Operations.Operation.U16MSBOperation
...
+  Sail.writeReg Register.nextPC ((← Sail.readReg Register.PC) + 4#64)
+  _ ← execute_RTYPE rs2 rs1 rd rop.SRL
+  pure ()
+
+def sp1_srl : SailM Unit := do
+  let ⟨ srl, imm ⟩ := h_is_srl
+  let op_a := sp1_op_a Main cstrs (srl_real Main srl)
+  -- TODO(gzgz): we can obtain this from the constraint compiler
+  -- This comes from the Interaction.state in CPUState
+  Sail.writeReg Register.nextPC (Word.toBitVec64 #v[Main[3], Main[4], Main[5], 0] + 4)
```
Comment (GZGavinZhao) [inline SP1Chips/ShiftRightChip.lean]: The value that's actually being written is `Word.toBitVec64 #v[Main[3] + 4, Main[4], Main[5], 0]`. Could you please update all of your chip proof to use this instead? The equivalence holds using something like this:
```
      have : (↑(Main[3]$ + 4) + ↑Main[4]$ <<< 16 + ↑Main[5]$ <<< 32 : ℕ) = ↑Main[3]$ + ↑Main[4]$ <<< 16 + ↑Main[5]$ <<< 32 + 4 := by
        simp [Fin.add_def]
        rw [Nat.mod_eq_of_lt (by clear * - h_pc0; linarith)]
        ring_nf
```

Comment (PetarMax) [reply SP1Chips/ShiftRightChip.lean]: I'm not sure what you mean here. Actually being written by whom? The Rust code of the reader?

Comment (PetarMax) [reply SP1Chips/ShiftRightChip.lean]: In any case, done.
